US07659268B2
To a mixture of methyl 5-amino-6-bromopyridin-2-ylcarbamate (100 mg, 0.41 mmol) and CuCl (120 mg, 1.6 mmol) in HCl (28%, 10 mL) was added and NaNO2 (29 mg, 0.41 mmol) at 0° C. The mixture was stirred at room temperature for 2Hr. The reaction mixture was diluted with water and extracted with ethyl acetate (20 mL×3). The combined organic layers were dried over anhydrous Na2SO4 and evaporated under vacuum to give methyl 6-bromo-5-chloropyridin-2-ylcarbamate (80 mg, 75%). 1H NMR (400 MHz, CDCl3) δ 7.93 (d, J=8.8 Hz, 1H), 7.69 (d, J=8.8 Hz, 1H), 7.38 (brs, 1H), 3.82 (s, 3H).

reactant | methyl 5-amino-6-bromopyridin-2-ylcarbamate | 0.41 mmol, 100 mg | NC=1C=CC(=NC1Br)NC(OC)=O | C7H8BrN3O2
reactant | NaNO2 | 0.41 mmol, 29 mg | N(=O)[O-].[Na+]
reactant | HCl | 10 mL | Cl | ClH
solvent | water | O | H2O
catalyst | CuCl | 1.6 mmol, 120 mg | Cl[Cu]
product | methyl 6-bromo-5-chloropyridin-2-ylcarbamate | 80 mg, 75% | BrC1=C(C=CC(=N1)NC(OC)=O)Cl | C7H6BrClN2O2
